2123-09-28 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Prelim abd:
   -no discrete thrombus, no pneumotosis, nonspecific mild colonic wall
   thickening, no bowel ischemia, no acute chole, suboptimal study
   Prelim head: no bleed
   -blood in OG
   -rectal temp100.6
   -spoke to family, daughter and son - very involved.
   -NSVT around 00:26, 15 beats, self resolved, lytes were sent.
   -wean off dopa and switched to phenylephidrine.
   -RIJ placed
   Allergies:
   Iodine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2123-9-27**] 09:00 AM
   Cefipime - [**2123-9-27**] 11:25 AM
   Piperacillin - [**2123-9-28**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 950 units/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Phenylephrine - 2 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-9-27**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-9-28**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.8
   HR: 93 (93 - 130) bpm
   BP: 100/52(67) {83/45(-19) - 125/76(93)} mmHg
   RR: 13 (10 - 34) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 15 (14 - 16)mmHg
   Total In:
                                                                  3,058 mL
                                                                    524 mL
   PO:
   TF:
   IVF:
                                                                  1,901 mL
                                                                    524 mL
   Blood products:
                                                                  1,157 mL
   Total out:
                                                                    700 mL
                                                                     80 mL
   Urine:
                                                                    700 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,358 mL
                                                                    444 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.47/36/173/25/3
   Ve: 9.4 L/min
   PaO2 / FiO2: 433
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, Anxious
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic), JVP flat
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Absent), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   b/l)
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present, No(t)
   Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm, No(t) Jaundice, superficial ulcers pretibially B/L
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): time name only, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   170 K/uL
   15.8 g/dL
   190 mg/dL
   3.0 mg/dL
   25 mEq/L
   3.8 mEq/L
   90 mg/dL
   97 mEq/L
   139 mEq/L
   47.8 %
   17.6 K/uL
        [image002.jpg]
                             [**2123-9-27**]  10:18 AM
                             [**2123-9-27**]  12:06 PM
                             [**2123-9-27**]  02:40 PM
                             [**2123-9-27**]  05:29 PM
                            [**2123-9-28**]  12:21 AM
                            [**2123-9-28**]  12:23 AM
                            [**2123-9-28**]  03:34 AM
                            [**2123-9-28**]  03:40 AM
   WBC
   14.8
   17.6
   Hct
   49.8
   47.8
   Plt
   203
   170
   Cr
   2.8
   3.0
   TropT
   0.11
   0.84
   TCO2
   17
   14
   26
   27
   Glucose
   161
   190
   Other labs: PT / PTT / INR:27.7/150.0/2.7, CK / CKMB /
   Troponin-T:257/26/0.84, ALT / AST:[**Telephone/Fax (1) 9226**], Alk Phos / T Bili:87/3.4,
   D-dimer:1264 ng/mL, Fibrinogen:398 mg/dL, Lactic Acid:5.9 mmol/L,
   LDH:1442 IU/L, Ca++:8.7 mg/dL, Mg++:2.8 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   81 year old male with history of CAD s/p CABG [**2110**], CHF with EF 10%
   with h/o flash pulm edema and respiratory arrest, DM, recently
   diagnosed Afib, and PVD who was transferred from [**Hospital3 1492**] with
   right leg edema and weeping on [**2123-9-22**] now presents as transfer from
   [**Hospital1 2266**] to the CCU after being found non-responsive and hypoxic.
   .
   # AG Met acidosis: Patient has had an AG that since [**9-25**] with lactate
   of 8. Patient was alkalotic on ABG likely from contraction alkolosis
   [**12-21**] overdiuresis and overcompensated resp alkalosis for lactate.
   Elevated lactate, elevated RR, tachycardia, AMS, and leukocytosis
   concerning for sepsis. Source of infection include a mesenteric
   ischemia given his afib that had not been anticoagulated prior to
   admission or HAP/aspiration given his recent hospitalizations and AMS.
   Less likely to be PNA given lack of hypoxia on ABG. Cdiff neg x1 this
   admission and no diarrhea currently(which you would also expect with
   mesenteric ischemia). Has not spiked fever yet. Patient transfered to
   [**Hospital1 **] for lower ext pain but ulcers and quite superficial and do not
   appear to be source of infection. Also with leukocytosis and elevated
   dbili should consider cholangitis in differential. Another likely
   possibility is cardiogenic shock resulting in diffuse hypoperfusion and
   lactatic acidosis even without underlying infectious etiology.  CTA
   chest and abd showed no sources of infection/mesenteric ischemia.
   -broad spectrum abx with Vanc/Zosyn
   -f/u CXR from admission
   -f/u sputum GS and culture, UA, UCx, BCx
   -dopamine was switched to neo given ectopy.
   -f/u lipase, LFTS
   .
   # PUMP: EF 10% on echo [**9-23**], thought to be ischemic in nature. Has
   recent deterioration in EF as 20% on OSH (down from 40%) which may be
   [**12-21**] relatively new Afib preventing exta cardiac output from atrial
   kick. Had been treated for with lasix gtt prior to transfer for CHF
   exacerbation. Currently, patient does have lower extremity edema but
   JVP not elevated and CXR without evidence of gross volume overload so
   likely eu to hypovolemic currently. Cardiac
   -hold diuresis
   -would benefit from beta-blocker and ACEI once more medically stable
   -CVP looks even, though complicated by poor flow
   -consider ICD in future if patient stabilizes
   -currently in cardiogenic shock, ?contribution of sepsis
   -pressor dependant
   .
   # RHYTHM: Patient currently in Afib, likely [**12-21**] to dilated atria and
   MR. [**Name13 (STitle) 368**] old LBBB so hard to interpret for new ischemia but should rule
   it out.
   -monitor on tele
   -TEE, d/c cardioversion to increase atrial contribution to cardiac
   output
   -continue rate control
   - Amiodarone 150 bolus, and drip
   -hold anticoagulation as subratherapeutic INR.
   .
   # CORONARIES: Patient has history of CAD and CABG. No history of CP and
   LBBB makes it difficult to interpret ischemic pattern on EKG.
   -trend CEZ, some contribution of renal faillure, cath not currently
   indicated, no ischemic changes on TTE
   -cont asa, hold gemfibrozil and BB
   .
   # Leukocytosis: Had completed 7 day course of Levaquin for pneumonia at
   OSH, please see discussion above for concerns of possible infectious
   etiologies and plan.
   -SIRS + with bacteria in sputum
   -Cont. Vanc and Zosyn
   .
   # AMS: Patient's mental status and been normal and AAOx3 prior to this
   morning. Underlying infectious process combinted with lactic acidosis
   and respiratory alkalosis likely contributing. Also, did have a fall
   and hit head two days prior to transfer with normal head CT at the
   time. In setting of supratherapeutic INR, should obtain head CT to rule
   out any evolving intraparenchymal hemorrhage. Also having myoclonic
   jerks which is likely to be toxic-metabolic in nature as elytes are
   within normal limits.
   -correct INR (see below)
   -f/u CT head noncontrast
   -intubated for airway protection
   -monitor elytes
   -treat infection as above
   -hold amytriptiline
   -Neuro c/s
   .
   # Supratherapeutic INR: Anticoagulated for Afib. Patient received 7.5
   mg of coumadin while being bridged on heparin and INR became
   supratherapeutic to [**3-24**] on [**9-25**] and both medication were discontinued.
   Unclear etiology but patient may have Vit K consumption [**12-21**] underlying
   bowel ishcemia. DIC less likely given normal platelets and fibrinogen.
   -given [**12-23**] U FFP with get INR<2 prior to central line placement
   -give 10 IV VitK x1 for now
   -trend coags
   .
   # AOCKD: Patient baseline 1.6, now 2.5 in setting of diuresis so likely
   pre-renal. Also possible is ATN is setting of hypoperfusion with low
   CO. Also has history of elevated PSA so BPH and postobstructive is
   possible but patient has foley in place but it has been intermittantly
   clotted.
   - D/C CBI
   - follow urine outputs
   -give 1L fluid
   -would like to give acetylcysteine prior to contrast load but may not
   be time.
   -f/u urine lytes
   -f/u UA and UCX
   -in future consider renal ultrasound
   .
   # Transaminitis/hyperbilirubinemia: Has AST, LDH elevated which may be
   [**12-21**] hepatic congestion with low EF. With bili elevated also should
   consider cholangitis.
   -trend LFTS
   -?contribution of myocyte necrosis
   -f/u CT abd
   .
   # HTN: Has a history of hypertension but currently hypotensive with
   severe shock.
   -hold BB and monitor
   .
   # HL: Hold gemfibrozil given transaminitis and shock
   .
   # DM: HA1C 7.3 on admission, had episodes of hypoglycemia at OSH so
   holding lantus.
   -cont RISS
   -follow BS, if continuously elevated can resume lantus and low dose
   .
   # Polycythemia: Hct elevated since OSH. Likely [**12-21**] to chronic hypoxia
   and stimulated epo response.
   -monitor for now
   .
   # COPD: Unclear how severe, no PFTs in computer. Satting well on room
   air prior to transfer. Does not appear to be chornic CO2 retainer.
   -hold advair while intubated
   -ipratropium/albuterol nebs
   .
   # LE ulcers/edema: Edema likely [**12-21**] venous insufficiency given multiple
   venous grafts. Otherwise intravascularly dry so unlikely related to
   heart failure. Ulcer differential includes PAD and venous
   insufficiency. Does not appear to be a diabetic ulcer. Vascular
   following.
   -vascular to do peripheral graft survival study when more stable
   -cont wound care
   -cont pneumoboots
   .
   # Hematuria: Apparently started in setting of fall that caused trauma
   to foley.
   -cont CBI(althought it makes urine output difficult to monitor)
   -consider Urology consult if not improving.
   .
   # Anxiety: Apparently started in setting of son's diagnosis of cancer.
   Had been with poor appetite. Patient to be intubated.
   -readdress when more stable
   -hold amytriptilline
   .
   # FEN: patient received 1 L NS, follow and replete [**Hospital1 **] elytes
   .
   # ACCESS: 1PIV and 1EJ
   .
   #PROPHYLAXIS:
   -DVT ppx with supratherapeutic INR
   -Pain management with fentanyl
   -Bowel regimen with colace/senna
   -VAP bundle
   -PPI
   .
   #CODE: full confirmed
   .
   #COMM: [**First Name8 (NamePattern2) 878**] [**Known lastname 9210**] [**Telephone/Fax (1) 9211**] wife and HCP
   .
   #DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2123-9-27**] 09:00 AM
   20 Gauge - [**2123-9-27**] 09:25 AM
   Arterial Line - [**2123-9-27**] 10:00 AM
   Multi Lumen - [**2123-9-27**] 06:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2123-09-29 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - TEE revealed clot, stopped amiodarone
   Neuro recs:
   - EEG: if flat no need for MRI
   - Poor renal perfusion with relatively preserved CVP indicates poor
   forward flow without decreased pre-load.  Started Milrinone and lasix
   for better renal perfusion/improved starling curve.
   Allergies:
   Iodine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2123-9-27**] 09:00 AM
   Cefipime - [**2123-9-27**] 11:25 AM
   Piperacillin - [**2123-9-28**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-9-28**] 10:52 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Heparin Sodium - 200 units/hour
   Milrinone - 0.5 mcg/Kg/min
   Furosemide (Lasix) - 20 mg/hour
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-9-29**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.7
C (98
   HR: 112 (78 - 115) bpm
   BP: 104/46(63) {97/43(58) - 127/64(84)} mmHg
   RR: 14 (10 - 16) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 320 (8 - 330)mmHg
   Total In:
                                                                  1,304 mL
                                                                    375 mL
   PO:
   TF:
   IVF:
                                                                  1,244 mL
                                                                    375 mL
   Blood products:
   Total out:
                                                                    848 mL
                                                                    265 mL
   Urine:
                                                                    848 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    456 mL
                                                                    110 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 30
   PIP: 16 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 97%
   ABG: 7.43/40/115/26/2
   Ve: 6.9 L/min
   PaO2 / FiO2: 287
   Physical Examination
   GEN: intubated, nonresponsive, rare spontaneous movement of R hand
   CV: RRR s mrg
   RESP: CTA on limited anterior exam
   ABD: +BS, S, NT/ND
   EXT: cool, weak but palpable pulses
   NEURO: constricted pupils at baseline that sluggishly contract to
   light, no withdrawal to nailbed pressure in all four extremities
   Labs / Radiology
   138 K/uL
   14.5 g/dL
   209 mg/dL
   3.2 mg/dL
   26 mEq/L
   3.7 mEq/L
   104 mg/dL
   98 mEq/L
   140 mEq/L
   43.8 %
   14.1 K/uL
        [image002.jpg]
                            [**2123-9-28**]  12:23 AM
                            [**2123-9-28**]  03:34 AM
                            [**2123-9-28**]  03:40 AM
                            [**2123-9-28**]  09:05 AM
                            [**2123-9-28**]  12:37 PM
                            [**2123-9-28**]  05:55 PM
                            [**2123-9-28**]  08:41 PM
                            [**2123-9-28**]  09:48 PM
                            [**2123-9-29**]  03:56 AM
                            [**2123-9-29**]  04:06 AM
   WBC
   17.6
   14.1
   Hct
   47.8
   43.8
   Plt
   170
   138
   Cr
   3.0
   3.4
   3.2
   TropT
   0.84
   1.02
   0.95
   TCO2
   26
   27
   26
   27
   23
   27
   Glucose
   190
   174
   209
   Other labs: PT / PTT / INR:24.0/101.4/2.3, CK / CKMB /
   Troponin-T:186/10/0.95, ALT / AST:[**Telephone/Fax (1) 9252**], Alk Phos / T Bili:70/4.3,
   D-dimer:1264 ng/mL, Fibrinogen:398 mg/dL, Lactic Acid:2.9 mmol/L,
   LDH:1167 IU/L, Ca++:7.5 mg/dL, Mg++:2.6 mg/dL, PO4:6.1 mg/dL
   TEE: The left atrium is moderately dilated. The left atrial appendage
   emptying velocity is depressed (<0.2m/s). A thrombus is seen at the tip
   of the left atrial appendage. Moderate to severe spontaneous echo
   contrast is seen in the body of the right atrium. No atrial septal
   defect is seen by 2D or color Doppler. The left ventricular cavity is
   dilated. There is severe regional left ventricular systolic dysfunction
   . There are complex (>4mm) atheroma in the descending thoracic aorta.
   The aortic valve leaflets are moderately thickened. No masses or
   vegetations are seen on the aortic valve. There is no aortic valve
   stenosis. No aortic regurgitation is seen. The mitral valve leaflets
   are mildly thickened. No mass or vegetation is seen on the mitral
   valve. Moderate (2+) mitral regurgitation is seen. The tricuspid valve
   leaflets are mildly thickened. There is no pericardial effusion.
   IMPRESSION: Left atrial appendage thrombus. Severe biventricular
   systolic dysfunction. Moderate mitral regurgitation. Severe thoracic
   aortic atherosclerosis.
[**2123-9-27**] 2:40 pm SPUTUM      Source: Expectorated.
   GRAM STAIN (Final [**2123-9-28**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
   C. diff EIA - negative
   Assessment and Plan
   81 year old male with history of CAD s/p CABG [**2110**], CHF with EF 10%
   with h/o flash pulm edema and respiratory arrest, DM, recently
   diagnosed Afib, and PVD who was transferred from [**Hospital3 1492**] with
   right leg edema and weeping on [**2123-9-22**] now presents as transfer from
   [**Hospital1 2266**] to the CCU after being found non-responsive and hypoxic.
   .
   # AG Met acidosis: Patient has had an AG that since [**9-25**] with lactate
   of 8. Patient was alkalotic on ABG likely from contraction alkolosis
   [**12-21**] overdiuresis and overcompensated resp alkalosis for lactate.
   Elevated lactate, elevated RR, tachycardia, AMS, and leukocytosis
   concerning for sepsis. Source of infection include a mesenteric
   ischemia given his afib that had not been anticoagulated prior to
   admission or HAP/aspiration given his recent hospitalizations and AMS.
   Less likely to be PNA given lack of hypoxia on ABG. Cdiff neg x1 this
   admission and no diarrhea currently(which you would also expect with
   mesenteric ischemia). Has not spiked fever yet. Patient transfered to
   [**Hospital1 **] for lower ext pain but ulcers and quite superficial and do not
   appear to be source of infection. Also with leukocytosis and elevated
   dbili should consider cholangitis in differential. Another likely
   possibility is cardiogenic shock resulting in diffuse hypoperfusion and
   lactatic acidosis even without underlying infectious etiology.  CTA
   chest and abd showed no sources of infection/mesenteric ischemia.
   - on vancomycin for presumed sepsis
   - AG closing
   - Lactate decreased to 2.9
   - CXR from admission did not show evidence of infiltrates
   - f/u sputum cultures
   - f/u lipase, LFTS
   .
   # PUMP: EF 10% on echo [**9-23**], thought to be ischemic in nature. Has
   recent deterioration in EF as 20% on OSH (down from 40%) which may be
   [**12-21**] relatively new Afib preventing exta cardiac output from atrial
   kick. Had been treated for with lasix gtt prior to transfer for CHF
   exacerbation. Currently, patient does have lower extremity edema but
   JVP not elevated and CXR without evidence of gross volume overload so
   likely eu to hypovolemic currently. We are moving towards considering
   this endstage CHF, we will approach palliative care shortly pending
   better family understanding.
   - hold diuresis, continue milrinone
   - would benefit from beta-blocker and ACEI once more medically stable
   - CVP is down, though complicated by poor flow
   - consider ICD in future if patient stabilizes
   - currently in cardiogenic shock, ?contribution of sepsis
   - pressor dependent (milrinone +/- phenylephrine)
   .
   # RHYTHM: Patient currently in Afib, likely [**12-21**] to dilated atria and
   MR. [**Name13 (STitle) 368**] old LBBB so hard to interpret for new ischemia but should rule
   it out.  TEE revealed intracardiac thrombus so cannot cardiovert at
   this time.
   - monitor on tele
   - heparin gtt
   - continue rate control
   - stopped amiodarone
   .
   # CORONARIES: Patient has history of CAD and CABG. No history of CP and
   LBBB makes it difficult to interpret ischemic pattern on EKG.
   - trend CEZ, some contribution of renal failure, cath not currently
   indicated, no ischemic changes on TTE
   - cont ASA, hold gemfibrozil and BB
   .
   # Leukocytosis: Had completed 7 day course of Levaquin for pneumonia at
   OSH, please see discussion above for concerns of possible infectious
   etiologies and plan.  Now downtrending.
   - SIRS + with bacteria in sputum
   - on vanc
   .
   # AMS: Patient's mental status and been normal and AAOx3 prior to this
   morning. Underlying infectious process combinted with lactic acidosis
   and respiratory alkalosis likely contributing. Also, did have a fall
   and hit head two days prior to transfer with normal head CT at the
   time. In setting of supratherapeutic INR, should obtain head CT to rule
   out any evolving intraparenchymal hemorrhage. Also having myoclonic
   jerks which is likely to be toxic-metabolic in nature as lytes are
   within normal limits.
   - correct INR (see below)
   - f/u MRI head, EEG
   - f/u Neuro recs
   - intubated for airway protection
   - treat infection as above
   .
   # Supratherapeutic INR: Anticoagulated for Afib. Patient received 7.5
   mg of coumadin while being bridged on heparin and INR became
   supratherapeutic to [**3-24**] on [**9-25**] and both medication were discontinued.
   Unclear etiology but patient may have Vit K consumption [**12-21**] underlying
   bowel ischemia. DIC less likely given normal platelets and
   fibrinogen.   Received 4u FFP, INR this AM 2.3 (improved but still
   elevated).
   - given [**12-23**] U FFP with get INR<2 prior to central line placement
   - give 10 IV VitK x1 for now
   - trend coags
   .
   # AOCKD: Patient baseline 1.6, now 3.2 in setting of diuresis so likely
   pre-renal. C/w urine lytes, FeNa << 1%.  Also possible is ATN is
   setting of hypoperfusion with low CO. Also has history of elevated PSA
   so BPH and postobstructive is possible but patient has foley in place
   but it has been intermittantly clotted.
   - D/C CBI
   - Had good UOP on lasix
   - follow now that he is on milrinone alone
   - follow urine outputs
   - give 1L fluid
   - send urine cx
   .
   # Transaminitis/hyperbilirubinemia: Has AST, LDH elevated which may be
   [**12-21**] hepatic congestion with low EF. With bili elevated also should
   consider cholangitis.
   - trend LFTS
   - f/u CT abd
   .
   # HTN: Has a history of hypertension but currently hypotensive with
   severe shock.
   - hold BB and monitor
   .
   # HL: Hold gemfibrozil given transaminitis and shock
   .
   # DM: HA1C 7.3 on admission, had episodes of hypoglycemia at OSH so
   holding lantus.
   - cont RISS
   - follow BS, if continuously elevated can resume lantus and low dose
   .
   # Polycythemia: Hct elevated since OSH. Likely [**12-21**] to chronic hypoxia
   and stimulated epo response.  Improved now, could be [**12-21**] fluid shifts.
   - monitor for now
   .
   # COPD: Unclear how severe, no PFTs in computer. Satting well on room
   air prior to transfer. Does not appear to be chornic CO2 retainer.
   - hold advair while intubated
   - ipratropium/albuterol nebs
   .
   # LE ulcers/edema: Edema likely [**12-21**] venous insufficiency given multiple
   venous grafts. Otherwise intravascularly dry so unlikely related to
   heart failure. Ulcer differential includes PAD and venous
   insufficiency. Does not appear to be a diabetic ulcer. Vascular
   following.
   - vascular to do peripheral graft survival study when more stable
   - cont wound care
   - cont pneumoboots
   .
   # Hematuria: Apparently started in setting of fall that caused trauma
   to foley.
   - d/ced CBI
   - consider Urology consult if not improving.
   .
   # Anxiety: Apparently started in setting of son's diagnosis of cancer.
   Had been with poor appetite. Patient to be intubated.
   - readdress when more stable
   - hold amytriptilline
   .
   # FEN: patient received 1 L NS, follow and replete [**Hospital1 **] elytes
   .
   # ACCESS: 1PIV and 1EJ
   .
   #PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Pain management with fentanyl
   -Bowel regimen with colace/senna
   -VAP bundle
   -PPI
   .
   #CODE: full confirmed
   .
   #COMM: [**First Name8 (NamePattern2) 878**] [**Known lastname 9210**] [**Telephone/Fax (1) 9211**] wife and HCP
   .
   #DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2123-9-27**] 09:00 AM
   20 Gauge - [**2123-9-27**] 09:25 AM
   Arterial Line - [**2123-9-27**] 10:00 AM
   Multi Lumen - [**2123-9-27**] 06:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 8949**].
   I would add the following remarks:
   History
   Unresponsive.
   TEE with left atrial and vent thrombus so not candidate for DCCV.
   Off Amio.
   EEG and MRI for neuro eval.
   Urine output better on Milrinone.  Cr 3.2
   Medical Decision Making
   Will reassess neuro status and discuss plans with family.
   Prognosis very poor.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Last Name (NamePattern1) **], MD
   on:[**2123-9-29**] 11:13 ------

2123-09-30 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - stopped milrinone, lasix as patient's CVP dropped to 7-9
   - Neuro: MRI and EEG suggest unlikely but not very poor chance of
   neurologic recovery
   - patient became tachycardic to 150s-160s, rate-controlled well with IV
   metoprolol 5 mg x 1
   - family meeting; very difficult to establish "goals of care" - son is
   insistent that patient be "shocked once" despite attempts to explain
   indications for CPR; very unclear that family, as a whole, understands
   medical situation.
   Allergies:
   Iodine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2123-9-27**] 11:25 AM
   Piperacillin - [**2123-9-28**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-9-28**] 10:52 AM
   Vancomycin - [**2123-9-29**] 10:08 AM
   Infusions:
   Heparin Sodium - 600 units/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2123-9-29**] 05:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-9-30**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 117 (108 - 140) bpm
   BP: 101/42(62) {89/38(53) - 111/53(69)} mmHg
   RR: 13 (11 - 22) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 9 (5 - 13)mmHg
   Total In:
                                                                  1,100 mL
                                                                    166 mL
   PO:
   TF:
   IVF:
                                                                  1,100 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                    531 mL
                                                                    110 mL
   Urine:
                                                                    531 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    569 mL
                                                                     56 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 507 (420 - 683) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.46/41/146/28/5
   Ve: 7.5 L/min
   PaO2 / FiO2: 365
   Physical Examination
   GEN: intubated, nonresponsive, rare spontaneous movement of R hand
   CV: RRR s mrg
   RESP: CTA on limited anterior exam
   ABD: +BS, S, NT/ND
   EXT: cool, weak but palpable pulses
   NEURO: constricted pupils at baseline that sluggishly contract to
   light, no withdrawal to nailbed pressure in all four extremities
   Labs / Radiology
   157 K/uL
   14.4 g/dL
   201 mg/dL
   4.1 mg/dL
   28 mEq/L
   4.3 mEq/L
   117 mg/dL
   96 mEq/L
   138 mEq/L
   43.4 %
   17.3 K/uL
        [image002.jpg]
                            [**2123-9-28**]  05:55 PM
                            [**2123-9-28**]  08:41 PM
                            [**2123-9-28**]  09:48 PM
                            [**2123-9-29**]  03:56 AM
                            [**2123-9-29**]  04:06 AM
                            [**2123-9-29**]  11:39 AM
                            [**2123-9-29**]  06:35 PM
                            [**2123-9-29**]  10:00 PM
                            [**2123-9-30**]  02:26 AM
                            [**2123-9-30**]  02:39 AM
   WBC
   14.1
   17.3
   Hct
   43.8
   43.4
   Plt
   138
   157
   Cr
   3.4
   3.2
   4.1
   TropT
   0.95
   TCO2
   27
   23
   27
   30
   28
   30
   Glucose
   174
   209
   197
   201
   Other labs: PT / PTT / INR:19.3/74.4/1.8, CK / CKMB /
   Troponin-T:186/10/0.95, ALT / AST:[**Telephone/Fax (1) 9252**], Alk Phos / T Bili:70/4.3,
   D-dimer:1264 ng/mL, Fibrinogen:398 mg/dL, Lactic Acid:2.3 mmol/L,
   LDH:1167 IU/L, Ca++:7.8 mg/dL, Mg++:2.7 mg/dL, PO4:5.5 mg/dL
   MRI of Head [**9-29**]:
   1. No MR evidence of acute infarction or hemorrhage. Mild
   microangiopathic ischemic white matter disease.
   2. Atherosclerotic irregularity involving the cavernous portions of
   both internal carotid arteries with severe stenosis of the cavernous
   left ICA.
   CXR: [**9-29**]
   Large atelectasis in the left lower lobe new from [**9-27**] is
   unchanged from [**9-28**]. Small left pleural effusion is
   stable. Minimal right upper lobe opacity consistent with atelectasis is
   unchanged. Lines and tubes remain in place in standard position. There
   is no evidence of CHF.
   Assessment and Plan
   81 year old male with history of CAD s/p CABG [**2110**], CHF with EF 10%
   with h/o flash pulm edema and respiratory arrest, DM, recently
   diagnosed Afib, and PVD who was transferred from [**Hospital3 1492**] with
   right leg edema and weeping on [**2123-9-22**] now presents as transfer from
   [**Hospital1 2266**] to the CCU after being found non-responsive and hypoxic.
   .
   # AG Met acidosis: Patient has had an AG that since [**9-25**] with lactate
   of 8. Patient was alkalotic [**12-21**] to contraction alkolosis from
   overdiuresis and resp alkalosis compensation for lactate. Elevated
   lactate, elevated RR, tachycardia, AMS, and leukocytosis concerning for
   sepsis.  Likely HAP/aspiration given his recent hospitalizations and
   AMS.  Cdiff neg x1 this admission and no diarrhea currently.
   Leukocytosis and elevated dbili concerning for cholangitis.  Most
   likely he is in cardiogenic shock resulting in diffuse hypoperfusion
   and lactatic acidosis even without underlying infectious etiology.  CTA
   chest and abd showed no sources of infection/mesenteric ischemia.
   - on vancomycin for presumed sepsis
   - AG closing
   - Lactate decreased to 2.3
   - CXR from admission did not show evidence of infiltrates
   - f/u sputum cultures
   - trend LFTS
   .
   # PUMP: EF 10% on echo [**9-23**], thought to be ischemic in nature. Has
   recent deterioration in EF as 20% on OSH (down from 40%) which may be
   [**12-21**] relatively new Afib preventing exta cardiac output from atrial
   kick. Had been treated for with lasix gtt prior to transfer for CHF
   exacerbation. Currently, patient does have lower extremity edema but
   JVP not elevated and CXR without evidence of gross volume overload so
   likely eu to hypovolemic currently. We are moving towards considering
   this endstage CHF, we will approach palliative care shortly pending
   better family understanding.
   - hold diuresis and milrinone
   - would benefit from beta-blocker and ACEI once more medically stable
   - CVP is down, though complicated by poor flow
   - consider ICD in future if patient stabilizes
   - currently in cardiogenic shock, ?contribution of sepsis
   - pressor dependent (milrinone +/- phenylephrine)
   .
   # RHYTHM: Patient currently in Afib, likely [**12-21**] to dilated atria and
   MR. [**Name13 (STitle) 368**] old LBBB so hard to interpret for new ischemia but should rule
   it out.  TEE revealed intracardiac thrombus so cannot cardiovert at
   this time.
   - monitor on tele
   - heparin gtt
   - continue rate control
   - stopped amiodarone
   .
   # CORONARIES: Patient has history of CAD and CABG. No history of CP and
   LBBB makes it difficult to interpret ischemic pattern on EKG.
   - trend CEZ, some contribution of renal failure, cath not currently
   indicated, no ischemic changes on TTE
   - cont ASA, hold gemfibrozil and BB
   .
   # Leukocytosis: Had completed 7 day course of Levaquin for pneumonia at
   OSH, please see discussion above for concerns of possible infectious
   etiologies and plan.  Now downtrending.
   - SIRS + with bacteria in sputum
   - on vanc
   .
   # AMS: Patient's mental status and been normal and AAOx3 prior to this
   morning. Underlying infectious process combinted with lactic acidosis
   and respiratory alkalosis likely contributing. Also, did have a fall
   and hit head two days prior to transfer with normal head CT at the
   time. In setting of supratherapeutic INR, should obtain head CT to rule
   out any evolving intraparenchymal hemorrhage. Also having myoclonic
   jerks which is likely to be toxic-metabolic in nature as lytes are
   within normal limits.
   - correct INR (see below)
   - f/u MRI head, EEG
   - f/u Neuro recs
   - intubated for airway protection
   - treat infection as above
   .
   # Supratherapeutic INR: Anticoagulated for Afib. Patient received 7.5
   mg of coumadin while being bridged on heparin and INR became
   supratherapeutic to [**3-24**] on [**9-25**] and both medication were discontinued.
   Unclear etiology but patient may have Vit K consumption [**12-21**] underlying
   bowel ischemia. DIC less likely given normal platelets and
   fibrinogen.   Received 4u FFP, INR this AM 2.3 (improved but still
   elevated).
   - given [**12-23**] U FFP with get INR<2 prior to central line placement
   - given 10 IV VitK x1 for now
   - trend coags
   .
   # AOCKD: Patient baseline 1.6, now 3.2 in setting of diuresis so likely
   pre-renal. C/w urine lytes, FeNa << 1%.  Also possible is ATN is
   setting of hypoperfusion with low CO. Also has history of elevated PSA
   so BPH and postobstructive is possible but patient has foley in place
   but it has been intermittantly clotted.
   - D/C CBI
   - Had good UOP on lasix
   - follow now that he is on milrinone alone
   - follow urine outputs
   - give 1L fluid
   - send urine cx
   .
   # Transaminitis/hyperbilirubinemia: Has AST, LDH elevated which may be
   [**12-21**] hepatic congestion with low EF. With bili elevated also should
   consider cholangitis.
   - trend LFTS
   - f/u CT abd
   .
   # HTN: Has a history of hypertension but currently hypotensive with
   severe shock.
   - hold BB and monitor
   .
   # HL: Hold gemfibrozil given transaminitis and shock
   .
   # DM: HA1C 7.3 on admission, had episodes of hypoglycemia at OSH so
   holding lantus.
   - cont RISS
   - follow BS, if continuously elevated can resume lantus and low dose
   .
   # Polycythemia: Hct elevated since OSH. Likely [**12-21**] to chronic hypoxia
   and stimulated epo response.  Improved now, could be [**12-21**] fluid shifts.
   - monitor for now
   .
   # COPD: Unclear how severe, no PFTs in computer. Satting well on room
   air prior to transfer. Does not appear to be chornic CO2 retainer.
   - hold advair while intubated
   - ipratropium/albuterol nebs
   .
   # LE ulcers/edema: Edema likely [**12-21**] venous insufficiency given multiple
   venous grafts. Otherwise intravascularly dry so unlikely related to
   heart failure. Ulcer differential includes PAD and venous
   insufficiency. Does not appear to be a diabetic ulcer. Vascular
   following.
   - vascular to do peripheral graft survival study when more stable
   - cont wound care
   - cont pneumoboots
   .
   # Hematuria: Apparently started in setting of fall that caused trauma
   to foley.
   - d/ced CBI
   - consider Urology consult if not improving.
   .
   # Anxiety: Apparently started in setting of son's diagnosis of cancer.
   Had been with poor appetite. Patient to be intubated.
   - readdress when more stable
   - hold amytriptilline
   .
   # FEN: patient received 1 L NS, follow and replete [**Hospital1 **] elytes
   .
   # ACCESS: 1PIV and 1EJ
   .
   #PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Pain management with fentanyl
   -Bowel regimen with colace/senna
   -VAP bundle
   -PPI
   .
   #CODE: full confirmed
   .
   #COMM: [**First Name8 (NamePattern2) 878**] [**Known lastname 9210**] [**Telephone/Fax (1) 9211**] wife and HCP
   .
   #DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2123-9-27**] 09:25 AM
   Arterial Line - [**2123-9-27**] 10:00 AM
   Multi Lumen - [**2123-9-27**] 06:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2123-10-01 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -family meeting: DNR/DNI, comfort care.
   -Neuro: no input today, will continue to follow.
   Allergies:
   Iodine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-9-28**] 10:52 AM
   Vancomycin - [**2123-9-29**] 10:08 AM
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-10-1**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 115 (108 - 133) bpm
   BP: 123/66(83) {96/44(60) - 129/69(88)} mmHg
   RR: 25 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
    CVP: 12 (6 - 18)mmHg
   Total In:
                                                                    643 mL
                                                                    153 mL
   PO:
   TF:
   IVF:
                                                                    643 mL
                                                                    153 mL
   Blood products:
   Total out:
                                                                    365 mL
                                                                     60 mL
   Urine:
                                                                    365 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    278 mL
                                                                     93 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 350 (350 - 525) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 6.8 L/min
   Physical Examination
   GEN: intubated, nonresponsive, rare spontaneous movement of R hand
   CV: RRR s mrg
   RESP: CTA on limited anterior exam
   ABD: +BS, S, NT/ND
   EXT: cool, weak but palpable pulses
   NEURO: constricted pupils at baseline that sluggishly contract to
   light, no withdrawal to nailbed pressure in all four extremities
   Labs / Radiology
   157 K/uL
   14.4 g/dL
   201 mg/dL
   4.1 mg/dL
   28 mEq/L
   4.3 mEq/L
   117 mg/dL
   96 mEq/L
   138 mEq/L
   43.4 %
   17.3 K/uL
        [image002.jpg]
                            [**2123-9-28**]  05:55 PM
                            [**2123-9-28**]  08:41 PM
                            [**2123-9-28**]  09:48 PM
                            [**2123-9-29**]  03:56 AM
                            [**2123-9-29**]  04:06 AM
                            [**2123-9-29**]  11:39 AM
                            [**2123-9-29**]  06:35 PM
                            [**2123-9-29**]  10:00 PM
                            [**2123-9-30**]  02:26 AM
                            [**2123-9-30**]  02:39 AM
   WBC
   14.1
   17.3
   Hct
   43.8
   43.4
   Plt
   138
   157
   Cr
   3.4
   3.2
   4.1
   TropT
   0.95
   TCO2
   27
   23
   27
   30
   28
   30
   Glucose
   174
   209
   197
   201
   Other labs: PT / PTT / INR:19.3/74.4/1.8, CK / CKMB /
   Troponin-T:186/10/0.95, ALT / AST:537/799, Alk Phos / T Bili:79/5.4,
   D-dimer:1264 ng/mL, Fibrinogen:398 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:3.2 g/dL, LDH:698 IU/L, Ca++:7.8 mg/dL, Mg++:2.7 mg/dL, PO4:5.5
   mg/dL
   Assessment and Plan
   81 year old male with history of CAD s/p CABG [**2110**], CHF with EF 10%
   with h/o flash pulm edema and respiratory arrest, DM, recently
   diagnosed Afib, and PVD who was transferred from [**Hospital3 1492**] with
   right leg edema and weeping on [**2123-9-22**] now presents as transfer from
   [**Hospital1 2266**] to the CCU after being found non-responsive and hypoxic.
   .
   # AG Met acidosis: Patient has had an AG that since [**9-25**] with lactate
   of 8. Patient was alkalotic [**12-21**] to contraction alkolosis from
   overdiuresis and resp alkalosis compensation for lactate. Elevated
   lactate, elevated RR, tachycardia, AMS, and leukocytosis concerning for
   sepsis.  Likely HAP/aspiration given his recent hospitalizations and
   AMS.  Cdiff neg x1 this admission and no diarrhea currently.
   Leukocytosis and elevated dbili concerning for cholangitis.  Most
   likely he is in cardiogenic shock resulting in diffuse hypoperfusion
   and lactatic acidosis even without underlying infectious etiology.  CTA
   chest and abd showed no sources of infection/mesenteric ischemia.
   - on vancomycin for presumed sepsis
   - AG closing
   - Lactate decreased to 2.3
   - CXR from admission did not show evidence of infiltrates
   .
   # PUMP: EF 10% on echo [**9-23**], thought to be ischemic in nature. Has
   recent deterioration in EF as 20% on OSH (down from 40%) which may be
   [**12-21**] relatively new Afib preventing exta cardiac output from atrial
   kick. Had been treated for with lasix gtt prior to transfer for CHF
   exacerbation. Currently, patient does have lower extremity edema but
   JVP not elevated and CXR without evidence of gross volume overload so
   likely eu to hypovolemic currently. We are moving towards considering
   this endstage CHF, we will approach palliative care shortly pending
   better family understanding.
   - hold diuresis and milrinone
   - would benefit from beta-blocker and ACEI
   - CVP is down, though complicated by poor flow
   - consider ICD in future if patient stabilizes
   - currently in cardiogenic shock, ?contribution of sepsis
   - on levophed
   .
   # RHYTHM: Patient currently in Afib, likely [**12-21**] to dilated atria and
   MR. [**Name13 (STitle) 368**] old LBBB so hard to interpret for new ischemia but should rule
   it out.  TEE revealed intracardiac thrombus so cannot cardiovert at
   this time.
   - monitor on tele
   - heparin gtt
   - continue rate control
   - stopped amiodarone
   .
   # CORONARIES: Patient has history of CAD and CABG. No history of CP and
   LBBB makes it difficult to interpret ischemic pattern on EKG.
   - trend CEZ, some contribution of renal failure, cath not currently
   indicated, no ischemic changes on TTE
   - cont ASA, hold gemfibrozil and BB
   .
   # Leukocytosis: Had completed 7 day course of Levaquin for pneumonia at
   OSH, please see discussion above for concerns of possible infectious
   etiologies and plan.  Now downtrending.
   - SIRS + with bacteria in sputum
   - on vanc
   .
   # AMS: Patient's mental status and been normal and AAOx3 prior to this
   morning. Underlying infectious process combinted with lactic acidosis
   and respiratory alkalosis likely contributing. Also, did have a fall
   and hit head two days prior to transfer with normal head CT at the
   time. In setting of supratherapeutic INR, should obtain head CT to rule
   out any evolving intraparenchymal hemorrhage. Also having myoclonic
   jerks which is likely to be toxic-metabolic in nature as lytes are
   within normal limits.
   - correct INR (see below)
   - f/u MRI head, EEG
   - f/u Neuro recs
   - intubated for airway protection
   - treat infection as above
   .
   # Supratherapeutic INR: Anticoagulated for Afib. Patient received 7.5
   mg of coumadin while being bridged on heparin and INR became
   supratherapeutic to [**3-24**] on [**9-25**] and both medication were discontinued.
   Unclear etiology but patient may have Vit K consumption [**12-21**] underlying
   bowel ischemia. DIC less likely given normal platelets and
   fibrinogen.   Received 4u FFP, INR this AM 2.3 (improved but still
   elevated).
   - given [**12-23**] U FFP with get INR<2 prior to central line placement
   - given 10 IV VitK x1 for now
   - trend coags
   .
   # AOCKD: Patient baseline 1.6, now 3.2 in setting of diuresis so likely
   pre-renal. C/w urine lytes, FeNa << 1%.  Also possible is ATN is
   setting of hypoperfusion with low CO. Also has history of elevated PSA
   so BPH and postobstructive is possible but patient has foley in place
   but it has been intermittantly clotted.  Progressively worsening, Cr
   now > 4.
   - follow urine outputs
   .
   # Transaminitis/hyperbilirubinemia: Has AST, LDH elevated which may be
   [**12-21**] hepatic congestion with low EF. With bili elevated also should
   consider cholangitis. CT abd is benign.
   - trend LFTS
   .
   # HTN: Has a history of hypertension but currently hypotensive with
   severe shock.
   - hold BB and monitor
   .
   # HL: Hold gemfibrozil given transaminitis and shock
   .
   # DM: HA1C 7.3 on admission, had episodes of hypoglycemia at OSH so
   holding lantus.
   - cont RISS
   .
   # Polycythemia: Hct elevated since OSH. Likely [**12-21**] to chronic hypoxia
   and stimulated epo response.  Improved now, could be [**12-21**] fluid shifts.
   - monitor for now
   .
   # COPD: Unclear how severe, no PFTs in computer. Satting well on room
   air prior to transfer. Does not appear to be chornic CO2 retainer.
   - hold advair while intubated
   - ipratropium/albuterol nebs
   .
   # LE ulcers/edema: Edema likely [**12-21**] venous insufficiency given multiple
   venous grafts. Otherwise intravascularly dry so unlikely related to
   heart failure. Ulcer differential includes PAD and venous
   insufficiency. Does not appear to be a diabetic ulcer. Vascular
   following.
   - vascular to do peripheral graft survival study when more stable
   - cont wound care
   - cont pneumoboots
   .
   # Hematuria: Apparently started in setting of fall that caused trauma
   to foley.  CBI was d/ced, currently resolved.
   .
   # Anxiety: Apparently started in setting of son's diagnosis of cancer.
   Had been with poor appetite. Patient to be intubated.
   - readdress when more stable
   - hold amytriptilline
   .
   # FEN: patient received 1 L NS, follow and replete [**Hospital1 **] elytes
   .
   # ACCESS: 1PIV and 1EJ
   .
   #PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Pain management with fentanyl
   -Bowel regimen with colace/senna
   -VAP bundle
   -PPI
   .
   #CODE: full confirmed
   .
   #COMM: [**First Name8 (NamePattern2) 878**] [**Known lastname 9210**] [**Telephone/Fax (1) 9211**] wife and HCP.  Repeat family
   meeting, may need Ethics/Palliative Care consult to establish realistic
   goals of care.
   .
   #DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2123-9-27**] 10:00 AM
   Multi Lumen - [**2123-9-27**] 06:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2123-10-02 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2123-10-1**] 11:15 AM
 FEVER - 102.3
F - [**2123-10-1**] 08:00 AM
   CMO all day
   Allergies:
   Iodine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2123-10-1**] 09:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2123-10-2**] 02:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-10-2**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.8
C (100.1
   HR: 93 (90 - 134) bpm
   BP: 60/35(43) {48/30(36) - 119/63(80)} mmHg
   RR: 15 (8 - 27) insp/min
   SpO2: 87%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.5 kg (admission): 84 kg
   Height: 68 Inch
    CVP: 16 (10 - 22)mmHg
   Total In:
                                                                    627 mL
                                                                     36 mL
   PO:
   TF:
   IVF:
                                                                    627 mL
                                                                     36 mL
   Blood products:
   Total out:
                                                                    195 mL
                                                                      0 mL
   Urine:
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    432 mL
                                                                     36 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Spontaneous): 453 (453 - 453) mL
   PS : 5 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 87%
   ABG: ////
   Ve: 12.3 L/min
   Physical Examination
   GEN: intubated, nonresponsive, rare spontaneous movement of R hand
   CV: RRR s mrg
   RESP: CTA on limited anterior exam
   ABD: +BS, S, NT/ND
   EXT: cool, weak but palpable pulses
   NEURO: constricted pupils at baseline that sluggishly contract to
   light, no withdrawal to nailbed pressure in all four extremities
   Labs / Radiology
   157 K/uL
   14.4 g/dL
   201 mg/dL
   4.1 mg/dL
   28 mEq/L
   4.3 mEq/L
   117 mg/dL
   96 mEq/L
   138 mEq/L
   43.4 %
   17.3 K/uL
        [image002.jpg]
                            [**2123-9-28**]  05:55 PM
                            [**2123-9-28**]  08:41 PM
                            [**2123-9-28**]  09:48 PM
                            [**2123-9-29**]  03:56 AM
                            [**2123-9-29**]  04:06 AM
                            [**2123-9-29**]  11:39 AM
                            [**2123-9-29**]  06:35 PM
                            [**2123-9-29**]  10:00 PM
                            [**2123-9-30**]  02:26 AM
                            [**2123-9-30**]  02:39 AM
   WBC
   14.1
   17.3
   Hct
   43.8
   43.4
   Plt
   138
   157
   Cr
   3.4
   3.2
   4.1
   TropT
   0.95
   TCO2
   27
   23
   27
   30
   28
   30
   Glucose
   174
   209
   197
   201
   Other labs: PT / PTT / INR:19.3/74.4/1.8, CK / CKMB /
   Troponin-T:186/10/0.95, ALT / AST:537/799, Alk Phos / T Bili:79/5.4,
   D-dimer:1264 ng/mL, Fibrinogen:398 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:3.2 g/dL, LDH:698 IU/L, Ca++:7.8 mg/dL, Mg++:2.7 mg/dL, PO4:5.5
   mg/dL
   Assessment and Plan
   81 year old male with history of CAD s/p CABG [**2110**], CHF with EF 10%
   with h/o flash pulm edema and respiratory arrest, DM, recently
   diagnosed Afib, and PVD who was transferred from [**Hospital3 1492**] with
   right leg edema and weeping on [**2123-9-22**] now presents as transfer from
   [**Hospital1 2266**] to the CCU after being found non-responsive and hypoxic.
   .
   # AG Met acidosis: Patient has had an AG that since [**9-25**] with lactate
   of 8. Patient was alkalotic [**12-21**] to contraction alkolosis from
   overdiuresis and resp alkalosis compensation for lactate. Elevated
   lactate, elevated RR, tachycardia, AMS, and leukocytosis concerning for
   sepsis.  Likely HAP/aspiration given his recent hospitalizations and
   AMS.  Cdiff neg x1 this admission and no diarrhea currently.
   Leukocytosis and elevated dbili concerning for cholangitis.  Most
   likely he is in cardiogenic shock resulting in diffuse hypoperfusion
   and lactatic acidosis even without underlying infectious etiology.  CTA
   chest and abd showed no sources of infection/mesenteric ischemia.
   - on vancomycin for presumed sepsis
   - AG closing
   - Lactate decreased to 2.3
   - CXR from admission did not show evidence of infiltrates
   .
   # PUMP: EF 10% on echo [**9-23**], thought to be ischemic in nature. Has
   recent deterioration in EF as 20% on OSH (down from 40%) which may be
   [**12-21**] relatively new Afib preventing exta cardiac output from atrial
   kick. Had been treated for with lasix gtt prior to transfer for CHF
   exacerbation. Currently, patient does have lower extremity edema but
   JVP not elevated and CXR without evidence of gross volume overload so
   likely eu to hypovolemic currently. We are moving towards considering
   this endstage CHF, we will approach palliative care shortly pending
   better family understanding.
   - hold diuresis and milrinone
   - would benefit from beta-blocker and ACEI
   - CVP is down, though complicated by poor flow
   - consider ICD in future if patient stabilizes
   - currently in cardiogenic shock, ?contribution of sepsis
   - on levophed
   .
   # RHYTHM: Patient currently in Afib, likely [**12-21**] to dilated atria and
   MR. [**Name13 (STitle) 368**] old LBBB so hard to interpret for new ischemia but should rule
   it out.  TEE revealed intracardiac thrombus so cannot cardiovert at
   this time.
   - monitor on tele
   - heparin gtt
   - continue rate control
   - stopped amiodarone
   .
   # CORONARIES: Patient has history of CAD and CABG. No history of CP and
   LBBB makes it difficult to interpret ischemic pattern on EKG.
   - trend CEZ, some contribution of renal failure, cath not currently
   indicated, no ischemic changes on TTE
   - cont ASA, hold gemfibrozil and BB
   .
   # Leukocytosis: Had completed 7 day course of Levaquin for pneumonia at
   OSH, please see discussion above for concerns of possible infectious
   etiologies and plan.  Now downtrending.
   - SIRS + with bacteria in sputum
   - on vanc
   .
   # AMS: Patient's mental status and been normal and AAOx3 prior to this
   morning. Underlying infectious process combinted with lactic acidosis
   and respiratory alkalosis likely contributing. Also, did have a fall
   and hit head two days prior to transfer with normal head CT at the
   time. In setting of supratherapeutic INR, should obtain head CT to rule
   out any evolving intraparenchymal hemorrhage. Also having myoclonic
   jerks which is likely to be toxic-metabolic in nature as lytes are
   within normal limits.
   - correct INR (see below)
   - f/u MRI head, EEG
   - f/u Neuro recs
   - intubated for airway protection
   - treat infection as above
   .
   # Supratherapeutic INR: Anticoagulated for Afib. Patient received 7.5
   mg of coumadin while being bridged on heparin and INR became
   supratherapeutic to [**3-24**] on [**9-25**] and both medication were discontinued.
   Unclear etiology but patient may have Vit K consumption [**12-21**] underlying
   bowel ischemia. DIC less likely given normal platelets and
   fibrinogen.   Received 4u FFP, INR this AM 2.3 (improved but still
   elevated).
   - given [**12-23**] U FFP with get INR<2 prior to central line placement
   - given 10 IV VitK x1 for now
   - trend coags
   .
   # AOCKD: Patient baseline 1.6, now 3.2 in setting of diuresis so likely
   pre-renal. C/w urine lytes, FeNa << 1%.  Also possible is ATN is
   setting of hypoperfusion with low CO. Also has history of elevated PSA
   so BPH and postobstructive is possible but patient has foley in place
   but it has been intermittantly clotted.  Progressively worsening, Cr
   now > 4.
   - follow urine outputs
   .
   # Transaminitis/hyperbilirubinemia: Has AST, LDH elevated which may be
   [**12-21**] hepatic congestion with low EF. With bili elevated also should
   consider cholangitis. CT abd is benign.
   - trend LFTS
   .
   # HTN: Has a history of hypertension but currently hypotensive with
   severe shock.
   - hold BB and monitor
   .
   # HL: Hold gemfibrozil given transaminitis and shock
   .
   # DM: HA1C 7.3 on admission, had episodes of hypoglycemia at OSH so
   holding lantus.
   - cont RISS
   .
   # Polycythemia: Hct elevated since OSH. Likely [**12-21**] to chronic hypoxia
   and stimulated epo response.  Improved now, could be [**12-21**] fluid shifts.
   - monitor for now
   .
   # COPD: Unclear how severe, no PFTs in computer. Satting well on room
   air prior to transfer. Does not appear to be chornic CO2 retainer.
   - hold advair while intubated
   - ipratropium/albuterol nebs
   .
   # LE ulcers/edema: Edema likely [**12-21**] venous insufficiency given multiple
   venous grafts. Otherwise intravascularly dry so unlikely related to
   heart failure. Ulcer differential includes PAD and venous
   insufficiency. Does not appear to be a diabetic ulcer. Vascular
   following.
   - vascular to do peripheral graft survival study when more stable
   - cont wound care
   - cont pneumoboots
   .
   # Hematuria: Apparently started in setting of fall that caused trauma
   to foley.  CBI was d/ced, currently resolved.
   .
   # Anxiety: Apparently started in setting of son's diagnosis of cancer.
   Had been with poor appetite. Patient to be intubated.
   - readdress when more stable
   - hold amytriptilline
   .
   # FEN: patient received 1 L NS, follow and replete [**Hospital1 **] elytes
   .
   # ACCESS: 1PIV and 1EJ
   .
   #PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Pain management with fentanyl
   -Bowel regimen with colace/senna
   -VAP bundle
   -PPI
   .
   #CODE: full confirmed
   .
   #COMM: [**First Name8 (NamePattern2) 878**] [**Known lastname 9210**] [**Telephone/Fax (1) 9211**] wife and HCP.  Repeat family
   meeting, may need Ethics/Palliative Care consult to establish realistic
   goals of care.
   .
   #DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2123-9-27**] 10:00 AM
   Multi Lumen - [**2123-9-27**] 06:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: